US08309580B2
(3) 3-{[(4-{[(5-butanoyl-2-ethylthiophen-3-yl)(cyclohexyl)methyl]amino}phenyl)carbonyl]amino}propanoic acid
To a mixture of 4-{[(5-butanoyl-2-ethylthiophen-3-yl)(cyclohexyl)methyl]amino}benzoic acid (125 mg) synthesized above, ethyl β-alaninate hydrochloride (69.6 mg), 1-hydroxybenzotriazole monohydrate (69.4 mg) and triethylamine (63 μL) in N,N-dimethylformamide (10 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (86.8 mg), and the mixture was stirred at room temperature for 5 hr. 1N Hydrochloric acid was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (50% ethyl acetate/hexane) to give colorless oil. To a mixture of the obtained oil, tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at room temperature for 3 hr, and concentrated under reduced pressure. The residue was dissolved in water (10 mL), and 1N hydrochloric acid (1 mL) was added at 0° C. The resulting precipitate was collected by filtration to give the title compound (93.1 mg, 64%) as a white solid.

reactant | 4-{[(5-butanoyl-2-ethylthiophen-3-yl)(cyclohexyl)methyl]amino}benzoic acid | 125 mg | C(CCC)(=O)C1=CC(=C(S1)CC)C(C1CCCCC1)NC1=CC=C(C(=O)O)C=C1 | C24H31NO3S
reactant | ethyl β-alaninate hydrochloride | 69.6 mg | Cl.NCCC(=O)OCC
reactant | 1-hydroxybenzotriazole monohydrate | 69.4 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 86.8 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 63 μL | C(C)N(CC)CC | C6H15N
product | 3-{[(4-{[(5-butanoyl-2-ethylthiophen-3-yl)(cyclohexyl)methyl]amino}phenyl)carbonyl]amino}propanoic acid | 93.1 mg, 64% | C(CCC)(=O)C1=CC(=C(S1)CC)C(C1CCCCC1)NC1=CC=C(C=C1)C(=O)NCCC(=O)O | C27H36N2O4S
